US04818273
Preparation of 2-benzylthio-1,2,4-triazolo[1,5-a]pyrimidine
A solution of 2.0 g (9.6 mmol) of 3-amino-5-benzylthio-1,2,4-triazole and 2.3 ml (9.6 mmol) of malonaldehyde bis(diethylacetate) in 20 ml of glacial acetic acid was heated at reflux for 17 hours. After cooling to room temperature, the solvent was removed by evaporation at reduced pressure. The brown solid residue was recrystallized from isopropyl alcohol to afford 0.4 g (17%) of the desired product as a light brown crystalline solid, m.p. 104°-106° C. IR and 1H NMR spectra were consistent with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | 9.6 mmol, 2.0 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | malonaldehyde bis(diethylacetate) | 9.6 mmol, 2.3 ml | C(C)C(C(=O)O)CC.C(C)C(C(=O)O)CC.C(CC=O)=O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-1,2,4-triazolo[1,5-a]pyrimidine | 0.4 g, 17% | C(C1=CC=CC=C1)SC1=NN2C(N=CC=C2)=N1 | C12H10N4S
